US09061997B2
Preparation of ethyl 1-hexyl-4-hydroxy-2-oxo-1,2-dihydroquinoline-3-carboxylate
In a round-bottomed flask equipped with a condenser, N-hexylaniline (355 mg, 2 mmol) is added to a solution of methanetricarboxylic acid triethyl ester (1.35 ml, 6.4 mmol). The resulting reaction mixture is placed in a CEM Discovery microwave oven and irradiated in the open round-bottomed flask, and then the ethanol formed is distilled off (the parameters are the following: power=250 W, temperature=225° C., execution time=5 min, hold time=15 min).

reactant | N-hexylaniline | 2 mmol, 355 mg | C(CCCCC)NC1=CC=CC=C1 | C12H19N
reactant | methanetricarboxylic acid triethyl ester | 6.4 mmol, 1.35 ml | C(C)OC(=O)C(C(=O)OCC)C(=O)OCC | C10H16O6
solvent | ethanol | C(C)O | C2H6O
product | ethyl 1-hexyl-4-hydroxy-2-oxo-1,2-dihydroquinoline-3-carboxylate | C(CCCCC)N1C(C(=C(C2=CC=CC=C12)O)C(=O)OCC)=O | C18H23NO4
